US07157447B2
N-(4-Fluoro-2-(3-hydroxyprop-1-ynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
Reaction of intermediate 174, N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.563 g, 1.00 mmol) with propargyl alcohol (0.18 ml, 3.2 mmol) using the conditions described for intermediate 178 gave 0.415 g (85% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.64 (6H, s, 2×CH3), 4.04 (4H, m, 2×CH2), 4.39 (2H, d, J=6.6 Hz, CH2), 4.68 (2H, d, J=6.0 Hz, CH2), 5.29 (2H, s, OCH2), 6.99 (1H, m, aromatic), 7.13 (1H,dd, J=2.5 Hz and J=9.1 Hz, aromatic), 7.22 (1H,dd, J=5.6 Hz and J=8.6 Hz, aromatic), 7.33–7.37 (3H, m, aromatics), 7.44–7.47 (2H, m, aromatics), 7.68 (1H, broad t, NH). HRMS (ESI+) calculated for C27H27FN3O5 [M+H+]: 492.1935. found: 492.1939.

reactant | N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 1.00 mmol, 0.563 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)I | C24H23FIN3O4
reactant | propargyl alcohol | 3.2 mmol, 0.18 ml | C(C#C)O | C3H4O
product | N-(4-Fluoro-2-(3-hydroxyprop-1-ynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.415 g, 85% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C#CCO | C27H26FN3O5
